US07863314B2
B. 5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-pyrazole-4-carboxylic acid (2-methyl-cyclohexyl)-amide
A solution of 5-amino-1-(5-cyclopropylcarbamoyl-2-methylphenyl)-1H-pyrazole-4-carboxylic acid (21 mg), 2-methylcyclohexylamine (10 mg), EDCI (28 mg) and HOBt (12 mg) in DMF (0.75 ml) was reacted at room temperature for 24 h. Water (4 ml) was added and the solution was extracted with ethyl acetate (3 mL ×2). The organic phase was then washed with water (3 mL), dried over Na2SO4 and evaporated. The residue was purified by preparative TLC plate to give the desired product 5-amino-1-(5-cyclopropylcarbamoyl-2-methylphenyl)-1H-pyrazole-4-carboxylic acid (2-methylcyclohexyl)-amide (19 mg, 70%). HPLC (4 minute gradient) tR 2.34 min; MS m/z 396.31 [M+H]+.

reactant | 5-amino-1-(5-cyclopropylcarbamoyl-2-methylphenyl)-1H-pyrazole-4-carboxylic acid | 21 mg | NC1=C(C=NN1C1=C(C=CC(=C1)C(NC1CC1)=O)C)C(=O)O | C15H16N4O3
reactant | 2-methylcyclohexylamine | 10 mg | CC1C(CCCC1)N | C7H15N
reactant | EDCI | 28 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
solvent | Water | 4 ml | O | H2O
product | 5-amino-1-(5-cyclopropylcarbamoyl-2-methylphenyl)-1H-pyrazole-4-carboxylic acid (2-methylcyclohexyl)-amide | 19 mg, 70% | CC1C(CCCC1)NC(=O)C=1C=NN(C1N)C1=C(C=CC(=C1)C(NC1CC1)=O)C | C22H29N5O2
